US06887889B2
1-[4-(3′-Cyano-biphenyl-4-yl)-1-cyclopropylmethyl-piperidin-4-ylmethyl]-3-(3,5-dichloro-phenyl)-1-methyl-urea
To a flask containing 1-[1-cyclopropylmethyl-4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-3-(3,5-dichloro-phenyl)-1-methyl-urea (0.094 g, 0.164 mmol) was added Pd(PPh3)4 (0.02 g, 0.017 mmol, 10 mol %), 3-cyanophenylboronic acid (0.037 g, 0.25 mmol, 1.5 eq.) and Na2CO3 (0.212 g, 2 mmol). The mixture was suspended in toluene (3 mL), EtOH (1.5 mL) and H2O (1 mL) and heated to 80° C. for 18 h. The reaction mixture was cooled to room temperature and partitioned between EtOAc (5 mL) and saturated Na2CO3 (5 mL). The organic layer was washed with saturated Na2CO3 (3×5 mL), saturated brine (3×5 mL), dried over anhydrous sodium sulfate, filtered and concentrated by rotary evaporation to give a brown solid which was purified by HPLC to give the title compound 1-[4-(3′-cyano-biphenyl-4-yl)-1-cyclopropylmethyl-piperidin-4-yl methyl]-3-(3,5-dichloro-phenyl)-1-methyl-urea (0.053 g, 60%). 1H NMR (300 MHz, CDCl3): δ 7.95 (s, 1H), 7.92 (d, 1H), 7.79-7.66 (m, 4H), 7.57 (d, 2H), 7.41 (s, 2H), 7.33 (br.s, 1H), 7.06 (s, 1H), 3.76 (m, 2H), 3.63 (s, 1H), 3.60 (s, 2H), 3.08 (s, 3H), 2.87 (br.m, 2H), 2.69 (m, 5H), 1.14 (br.m, 1H), 0.84 (d, 2H), 0.44 (d, 2H)

reactant | 1-[1-cyclopropylmethyl-4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-3-(3,5-dichloro-phenyl)-1-methyl-urea | 0.164 mmol, 0.094 g | C1(CC1)CN1CCC(CC1)(C1=CC=C(C=C1)I)CN(C(=O)NC1=CC(=CC(=C1)Cl)Cl)C | C24H28Cl2IN3O
reactant | 3-cyanophenylboronic acid | 0.25 mmol, 0.037 g, 1.5 eq. | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | Na2CO3 | 2 mmol, 0.212 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 1.5 mL | CCO | C2H6O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.017 mmol, 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 1 mL | O | H2O
product | 1-[4-(3′-cyano-biphenyl-4-yl)-1-cyclopropylmethyl-piperidin-4-yl methyl]-3-(3,5-dichloro-phenyl)-1-methyl-urea | 0.053 g, 60% | C(#N)C=1C=C(C=CC1)C1=CC=C(C=C1)C1(CCN(CC1)CC1CC1)CN(C(=O)NC1=CC(=CC(=C1)Cl)Cl)C | C31H32Cl2N4O
